2199-12-15 07:42:00 Physician Resident Progress Note
Chief Complaint: DKA
   24 Hour Events:
   - Creat trended down overnight
   - pt continued to be confused throughout the night
   - good UOP throughout the night, 50-150 cc/hr
   - continued on insulin gtt over night, In the AM at 14.5 units/hr
   History obtained from Patient
   Allergies:
   History obtained from Patient
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 14.5 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Partially Improved clouded consciousness
   Eyes: No(t)  Blurry vision
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia
   Neurologic: No(t) Numbness / tingling, Headache, No(t) Seizure
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2199-12-15**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.4
C (99.3
   HR: 97 (77 - 97) bpm
   BP: 135/69(83){117/59(74) - 140/96(100)} mmHg
   RR: 12 (9 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,697 mL
                                                                  3,960 mL
   PO:
             960 mL
   TF:
   IVF:
                                                                  1,697 mL
                                                                  3,000 mL
   Blood products:
   Total out:
                                                                    430 mL
                                                                    640 mL
   Urine:
                                                                    430 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,267 mL
                                                                  3,320 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.42/34/106/24/-1
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : )
   Abdominal: Soft, Bowel sounds present, Tender: +TTP in epigastium. No
   rebound, vol guarding, No(t) Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person and place, not to day, Movement:
   Purposeful, Tone: Not assessed, Able to state his college major, which
   he was unable to stat yesterday
   Labs / Radiology
   200 K/uL
   12.1 g/dL
   145 mg/dL
   1.0 mg/dL
   24 mEq/L
   2.8 mEq/L
   13 mg/dL
   117 mEq/L
   147 mEq/L
   34.9 %
   9.9 K/uL
        [image002.jpg]
                             [**2199-12-14**]  07:12 PM
                             [**2199-12-14**]  07:15 PM
                             [**2199-12-15**]  01:02 AM
                             [**2199-12-15**]  06:17 AM
   WBC
   9.9
   Hct
   34.9
   Plt
   200
   Cr
   1.5
   1.2
   1.0
   TCO2
   23
   Glucose
   [**Telephone/Fax (3) 283**]45
   Other labs: CK / CKMB / Troponin-T:289//, Ca++:8.2 mg/dL, Mg++:2.0
   mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE I: pt continues on heparin gtt.  Gap has
   closed so pt is no longer in DKA.
   - continue insulin gtt until taking reliable PO
   - switch to long acting once ready to come of gtt
   - consult [**Last Name (un) 276**] for new diagnosis of DM
   - SW consut for new diagnosis
   - nutrition C/S for diabetes nutrition recs
   - continue IVF hydration with D51/2 NS @ 333 cc/hr
   - monitor lytes Q8hr
 HYPERNATREMIA (HIGH SODIUM): Trending down with IVF.
   -continue D5
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): No resolved, with
   creat back to normal.  Like was [**12-21**] pre-renal etiology.
 DELIRIUM / CONFUSION: appears to be improving from yesterday. If does
   not clear as the DKA clears will need dedicated workup, but for now,
   appears to be attributable to DKA.
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS: tourette
   - continue home adderall and lyrica
   ICU Care
   Nutrition: regular diabetic diet
   Glycemic Control:  insulin gtt
   Lines:
   18 Gauge - [**2199-12-14**] 09:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: MICU, but if stable off insulin gtt can be d/ced to floor
   later today.

2199-12-15 09:54:00 Physician Attending Progress Note
Chief Complaint: Diabetic Ketoacidosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   20 year old male with three days of nausea/vomiting who presented to
   the ED after becoming lethargic.  In ED found to have high glucose,
   acidosis, ketones consistent with DKA.  Started on insulin drip and
   transferred to ICU.
   24 Hour Events:
   Overnight, received insulin drip and fluids.  Was confused but now
   improving.  Had episode of vomiting this morning.
                                         History obtained from Patient
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Other medications:
   Med list reviewed
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-12-15**] 09:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 75 (75 - 97) bpm
   BP: 137/75(90){117/59(74) - 163/96(100)} mmHg
   RR: 24 (9 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,697 mL
                                                                  4,629 mL
   PO:
             960 mL
   TF:
   IVF:
                                                                  1,697 mL
                                                                  3,669 mL
   Blood products:
   Total out:
                                                                    430 mL
                                                                  1,170 mL
   Urine:
                                                                    430 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,267 mL
                                                                  3,459 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: 7.42/34/106/24/-1
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.1 g/dL
   200 K/uL
   145 mg/dL
   1.0 mg/dL
   24 mEq/L
   2.8 mEq/L
   13 mg/dL
   117 mEq/L
   147 mEq/L
   34.9 %
   9.9 K/uL
        [image002.jpg]
                             [**2199-12-14**]  07:12 PM
                             [**2199-12-14**]  07:15 PM
                             [**2199-12-15**]  01:02 AM
                             [**2199-12-15**]  06:17 AM
   WBC
   9.9
   Hct
   34.9
   Plt
   200
   Cr
   1.5
   1.2
   1.0
   TCO2
   23
   Glucose
   [**Telephone/Fax (3) 283**]45
   Other labs: CK / CKMB / Troponin-T:289//, Ca++:8.2 mg/dL, Mg++:2.0
   mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   1)       Diabetic Keto-acidosis
   Plan: Continue insulin drip for now as still vomiting.  Transition to
   PO when tolerates
             [**Last Name (un) 276**] Consult, nutrition consult
   2)       Acute Renal Failure: Improving with intravenous fluid
   hydration
   3)       Delirium: Improving
   4)       Tourette
s syndrome
   5)
 ACIDOSIS, METABOLIC
 DIABETES MELLITUS (DM), TYPE I
 HYPERNATREMIA (HIGH SODIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DELIRIUM / CONFUSION
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Tourette
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2199-12-14**] 09:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2199-12-16 08:01:00 Physician Resident Progress Note
20M with Tourettes no prior diagnosis of DM presents with 3 days of
   nausea and vomiting, found to be in DKA
   24 Hour Events:
 EKG - At [**2199-12-15**] 08:00 AM
   Sugars continued to improve
   [**Last Name (un) 276**] (Mintzner) consulted, discussed new dx at length w pt and pt's
   mother
   Changed over to SC insulin in the evening after pt had dinner; put on
   insulin SC scale from insulin drip; had some high BS after this
   transition
   Subjective
   Feels well, abdominal pain improved no nausea, vomiting. Not confused
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical records No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-12-16**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: Cough, mild nonproductive cough
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis, Abd
   pain essentially resolved
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2199-12-16**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98.1
   HR: 67 (64 - 91) bpm
   BP: 121/67(79){113/54(68) - 163/81(98)} mmHg
   RR: 13 (10 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  9,716 mL
                                                                  2,177 mL
   PO:
                                                                  1,650 mL
                                                                    420 mL
   TF:
   IVF:
                                                                  8,066 mL
                                                                  1,757 mL
   Blood products:
   Total out:
                                                                  4,560 mL
                                                                  1,820 mL
   Urine:
                                                                  4,310 mL
                                                                  1,820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,156 mL
                                                                    357 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Non-tender, mild discomfort R side abdomen
   Extremities: Warm, well perfused without edema
   Neurologic: Attentive, Oriented (to): [**Hospital1 54**], [**2199-11-19**] not date/day
   Lines/tubes/drains: Has Foley
   Labs / Radiology No imaging
   146 K/uL
   12.6 g/dL
   121 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.2 mEq/L
   9 mg/dL
   114 mEq/L
   148 mEq/L
   37.4 %
   7.4 K/uL
        [image002.jpg]
   [image004.jpg]
                             [**2199-12-14**]  07:12 PM
                             [**2199-12-14**]  07:15 PM
                             [**2199-12-15**]  01:02 AM
                             [**2199-12-15**]  06:17 AM
                             [**2199-12-15**]  12:47 PM
                             [**2199-12-15**]  06:30 PM
                             [**2199-12-16**]  12:01 AM
                             [**2199-12-16**]  05:48 AM
   WBC
   9.9
   7.4
   Hct
   34.9
   37.4
   Plt
   200
   146
   Cr
   1.5
   1.2
   1.0
   0.9
   0.8
   0.7
   0.7
   TCO2
   23
   Glucose
   [**Telephone/Fax (3) 283**]45
   [**Telephone/Fax (2) 331**]21
   Other labs: PT / PTT / INR:13.5/33.6/1.2, CK / CKMB / Troponin-T:289//,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE I
   Transitioned from IV to SQ insulin with improving glucose control,
   anion gap closed
   Adjust glargine and humalog scales [**First Name8 (NamePattern2) **] [**Last Name (un) 276**] recommendations
   Diabetes teaching inhouse for fingerstick and injection training
   Will need [**Last Name (un) 276**] followup [**Telephone/Fax (1) 358**]
 HYPERNATREMIA (HIGH SODIUM)
   Encourage patient to drink water
   Continue IVFs with 1/2NS
   Follow electrolytes [**Hospital1 **]
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Resolved with IVFs, was quite dehydrated at admission
 DELIRIUM / CONFUSION
   Mental status improved today
 Tourettes and Depression
   Continue home medications: Sertraline, Lyrica, Guanfacine,
   ICU Care
   Nutrition: Diabetic
   Glycemic Control:  Insulin standing + scale, as above
   Lines:  DC foley
   18 Gauge - [**2199-12-14**] 09:43 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: not needed
   VAP:  not applicable
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: floor today

2199-12-16 12:24:00 Physician Attending Progress Note
Chief Complaint: DKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2199-12-15**] 08:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-12-16**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Eyes:  Blurry vision
   Flowsheet Data as of  [**2199-12-16**] 12:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37
C (98.6
   HR: 75 (66 - 91) bpm
   BP: 125/65(76){113/54(68) - 139/73(88)} mmHg
   RR: 13 (13 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  9,716 mL
                                                                  2,824 mL
   PO:
                                                                  1,650 mL
                                                                    660 mL
   TF:
   IVF:
                                                                  8,066 mL
                                                                  2,164 mL
   Blood products:
   Total out:
                                                                  4,560 mL
                                                                  2,840 mL
   Urine:
                                                                  4,310 mL
                                                                  2,840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,156 mL
                                                                    -16 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.6 g/dL
   146 K/uL
   121 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.2 mEq/L
   9 mg/dL
   114 mEq/L
   148 mEq/L
   37.4 %
   7.4 K/uL
        [image002.jpg]
                             [**2199-12-14**]  07:12 PM
                             [**2199-12-14**]  07:15 PM
                             [**2199-12-15**]  01:02 AM
                             [**2199-12-15**]  06:17 AM
                             [**2199-12-15**]  12:47 PM
                             [**2199-12-15**]  06:30 PM
                             [**2199-12-16**]  12:01 AM
                             [**2199-12-16**]  05:48 AM
   WBC
   9.9
   7.4
   Hct
   34.9
   37.4
   Plt
   200
   146
   Cr
   1.5
   1.2
   1.0
   0.9
   0.8
   0.7
   0.7
   TCO2
   23
   Glucose
   [**Telephone/Fax (3) 283**]45
   [**Telephone/Fax (2) 331**]21
   Other labs: PT / PTT / INR:13.5/33.6/1.2, CK / CKMB / Troponin-T:289//,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 ACIDOSIS, METABOLIC
 DIABETES MELLITUS (DM), TYPE I - DKA resolved. Eating well w/o
   nausea. Plan for transfer to floor and the D/C
 HYPERNATREMIA (HIGH SODIUM) - resolved
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DELIRIUM / CONFUSION - resolved
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   tourette
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2199-12-14**] 09:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : floor
   Total time spent: 30